US07910592B2
A flask was charged with (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3-bromo-6-chloropyridin-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one (265 mg, 0.511 mmol), methyl [4-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetate (156.6 mg, 0.511 mmol), 1M K2CO3 (4 mL, 4 mmol), and THF (4 mL). The reaction was degassed with N2 and then 1,1′-bis(di-t-butylphosphino)ferrocene palladium dichloride (16.7 mg, 0.026 mmol) was added while the reaction was stirred vigorously. Vigorous stirring was continued for 15 min at room temperature, and then the reaction was diluted with EtOAc (40 mL) and washed with water and brine (20 mL each). The organic layer was dried (Na2SO4), filtered, and concentrated. The residue was purified by flash chromatography on silica gel (0 to 70% EtOAc/hexanes) to afford methyl {3-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-chloropyridin-3-yl]-4-methoxyphenyl}acetate. Rf=0.21 (25% EtOAc/hexanes). LCMS=617.4 (M+H)+. 1H NMR (500 MHz, CDCl3): δ 6.92-7.83 (m, 8H), 4.88-5.68 (m, 2H), 3.58-4.19 (m, 10H), 0.63 (s, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3-bromo-6-chloropyridin-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | 0.511 mmol, 265 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1Br)Cl)C)(F)F | C18H12BrClF6N2O2
reactant | methyl [4-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetate | 0.511 mmol, 156.6 mg | COC1=C(C=C(C=C1)CC(=O)OC)B1OC(C(O1)(C)C)(C)C | C16H23BO5
reactant | K2CO3 | 4 mmol, 1M, 4 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
catalyst | 1,1′-bis(di-t-butylphosphino)ferrocene palladium dichloride | 0.026 mmol, 16.7 mg | [Pd](Cl)Cl.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
product | methyl {3-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-chloropyridin-3-yl]-4-methoxyphenyl}acetate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C=1C=C(C=CC1OC)CC(=O)OC)Cl)C)(F)F | C28H23ClF6N2O5
